US08252781B2
Preparation of 2-cyclooctyl-1-(2-methoxyphenyl)-4,4-dimethyl-1,2-diazetidin-3-one
2-Cyclooctyl-4,4-dimethyl-1,2-diazetidin-3-one prepared in Process 5 of Example 73 and 1-bromo-2-methoxybenzene was used for a similar reaction and treatment as Example 181, and the title compound was obtained as a pale yellow oil.

reactant | 2-Cyclooctyl-4,4-dimethyl-1,2-diazetidin-3-one | C1(CCCCCCC1)N1NC(C1=O)(C)C | C12H22N2O
reactant | 1-bromo-2-methoxybenzene | BrC1=C(C=CC=C1)OC | C7H7BrO
product | 2-cyclooctyl-1-(2-methoxyphenyl)-4,4-dimethyl-1,2-diazetidin-3-one | C1(CCCCCCC1)N1N(C(C1=O)(C)C)C1=C(C=CC=C1)OC | C19H28N2O2
